US05279764
0.2 mol of 1-(4-ethoxy-2,3-difluorophenyl)-4-(trans-4-n-propylcyclohexylethyl)-cyclohex-1-ene (obtainable as follows: 131 ml of a 1.6N solution of butyllithium in n-hexane are added dropwise to a solution of 0.2 mol of ethoxy-2,3-difluorobenzene and 0.2 mol of tetramethylethylenediamine in 400 ml of tetrahydrofuran at -70° C., with exclusion of moisture and under a nitrogen atmosphere. The mixture is then stirred at -70° C. for 4 hours and 0.11 mol of 4-(trans-4-n-propylcyclohexylethyl)-cyclohexanone in 100 ml of THF are subsequently slowly added. The reaction mixture is allowed to warm slowly to room temperature and is hydrolysed with 1.5 l of a saturated ammonium chloride solution. The mixture is extracted with ether and the ether phase is washed several times with water, dried and evaporated. The residue is taken up in 700 ml of ethanol, 70 ml of concentrated HCl are added and the mixture is boiled under reflux for 3 hours. 1.5 l of water are then added and the mixture is extracted with methyl tert.-butyl ether. The ether phase is washed neutral, dried and evaporated and the residue is recrystallized. The product (has a mp. of 73° and a cp. of 139°) and 50 g of DDQ are boiled under reflux in 250 ml of toluene for one hour. After cooling, the reaction mixture is filtered with toluene over silica gel, the filtrate is evaporated and the residue is purified by chromatography. 1-(trans-4-Propylcyclohexyl)-2-(4'-ethoxy-2',3'-difluorobiphenyl-4-yl)-ethane is obtained, C 64° N 144° I.

reactant | 1-(4-ethoxy-2,3-difluorophenyl)-4-(trans-4-n-propylcyclohexylethyl)-cyclohex-1-ene | 0.2 mol | C(C)OC1=C(C(=C(C=C1)C1=CCC(CC1)CC[C@@H]1CC[C@H](CC1)CCC)F)F | C25H36F2O
reactant | butyllithium | C(CCC)[Li]
reactant | ethoxy-2,3-difluorobenzene | 0.2 mol | C(C)OC1=C(C(=CC=C1)F)F | C8H8F2O
reactant | tetramethylethylenediamine | 0.2 mol | CN(CCN(C)C)C | C6H16N2
reactant | 4-(trans-4-n-propylcyclohexylethyl)-cyclohexanone | 0.11 mol | C(CC)[C@@H]1CC[C@H](CC1)CCC1CCC(CC1)=O | C17H30O
reactant | ammonium chloride | 1.5 l | [Cl-].[NH4+]
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-(trans-4-Propylcyclohexyl)-2-(4'-ethoxy-2',3'-difluorobiphenyl-4-yl)-ethane | C(CC)[C@@H]1CC[C@H](CC1)CCC1=CC=C(C=C1)C1=C(C(=C(C=C1)OCC)F)F | C25H32F2O
